US04783472
7-Chloroformyl-3-(3-pyridyl)-1H,3H-pyrrolo[1,2-c]thiazole hydrochloride (6 g) is added, at a temperature between 70° and 76° C., to a solution of 3-amino-4-dimethylaminobenzophenone (4.8 g) and triethylamine (4.05 g) in dioxane (150 cc) which is heated to a temperature in the vicinity of 70° C., in the course of 5 minutes. The suspension obtained is heated, with stirring, at a temperature in the vicinity of 100° C. for 7 hours and 10 minutes and then stirred at a temperature in the vicinity of 20° C. for 16 hours. The solvent is evaporated off under reduced pressure (20 mm Hg; 2.7 kPa) at a temperature in the vicinity of 60° C. The residue is dissolved in methylene chloride (300 cc). The solution obtained is washed twice with distilled water (300 cc in total), twice with an aqueous 1N sodium hydroxide solution (300 cc in total) and twice with distilled water (300 cc in total) and then dried over anhydrous magnesium sulphate, treated with decolourizing charcoal (0.5 g), filtered and concentrated to dryness under reduced pressure (20 mm Hg; 2.7 kPa) at a temperature in the vicinity of 60° C. A crude product (10.1 g) is thereby obtained, which is dissolved in boiling acetonitrile (80 cc). Decolourizing charcoal (0.5 g) is added to the solution obtained and the suspension is filtered in the heated state. The filtrate is cooled at a temperature in the vicinity of 20° C. for 2 hours. The crystals formed are separated by filtration, washed twice with acetonitrile (50 cc in total) and 3 times with diethyl ether (90 cc in total) and then dried under reduced pressure (20 mm Hg; 2.7 kPa) at a temperature in the vicinity of 20° C. in the presence of potassium hydroxide pellets. N-(5-benzoyl-2-dimethylaminophenyl)-3-(3-pyridyl)-1H,3H-pyrrolo[1,2-c]thiazole-7-carboxamide (2.4 g) in the form of yellow crystals, m.p. 186° C., is thereby obtained.

reactant | 7-Chloroformyl-3-(3-pyridyl)-1H,3H-pyrrolo[1,2-c]thiazole hydrochloride | 6 g | Cl.ClC(=O)C=1C=CN2C(SCC21)C=2C=NC=CC2
reactant | 3-amino-4-dimethylaminobenzophenone | 4.8 g | NC=1C=C(C(=O)C2=CC=CC=C2)C=CC1N(C)C | C15H16N2O
reactant | triethylamine | 4.05 g | C(C)N(CC)CC | C6H15N
reactant | charcoal | 0.5 g | C | CH4
solvent | dioxane | 150 cc | O1CCOCC1 | C4H8O2
solvent | acetonitrile | 80 cc | C(C)#N | C2H3N
product | N-(5-benzoyl-2-dimethylaminophenyl)-3-(3-pyridyl)-1H,3H-pyrrolo[1,2-c]thiazole-7-carboxamide | 2.4 g | C(C1=CC=CC=C1)(=O)C=1C=CC(=C(C1)NC(=O)C=1C=CN2C(SCC21)C=2C=NC=CC2)N(C)C | C27H24N4O2S
